US07968587B2
(±)-N-[7-Cyano-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydrocyclo-penta[b]indol-2-yl]isobutyramide
Mix (±)-N-(7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-isobutyramide (6.28 g, 18.8 mmol), 6-fluoro-2-bromomethylpyridine (3.93 g, 20.7 mmol), and Cs2CO3 (12.25 g, 37.6 mmol) in DMF (25 mL). Heat the reaction at 50° C. for 18 h. Cool, dilute with EtOAc, and wash with water (3×200 mL). Dry the organic layer (MgSO4) and concentrate to give 7.1 g crude material. Purify by silica gel chromatography (5-20% EtOAc/CH2Cl2). Obtain 4.0 g (56%) yellow-tan solid. MS (m/z): 377 (M+1), 375 (M−1).

reactant | (±)-N-(7-cyano-1,2,3,4-tetrahydro-cyclopenta[b]indol-2-yl)-isobutyramide | 18.8 mmol, 6.28 g | C(#N)C1=CC=2C3=C(NC2C=C1)CC(C3)NC(C(C)C)=O | C16H17N3O
reactant | 6-fluoro-2-bromomethylpyridine | 20.7 mmol, 3.93 g | FC1=CC=CC(=N1)CBr | C6H5BrFN
reactant | Cs2CO3 | 37.6 mmol, 12.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-N-[7-Cyano-4-(6-fluoro-pyridin-2-ylmethyl)-1,2,3,4-tetrahydrocyclo-penta[b]indol-2-yl]isobutyramide | 4.0 g, 56% | C(#N)C1=CC=2C3=C(N(C2C=C1)CC1=NC(=CC=C1)F)CC(C3)NC(C(C)C)=O | C22H21FN4O
